US09370515B2
Preparation of 6-chloro-3-(naphthalen-1-yl)imidazo[1,2-b]pyridazine
To a stirred solution of 6-chloroimidazo[1,2-b]pyridazine (1.55 g, 10.1 mmol) in 10.0 mL of toluene was added aryl bromide (2.11 mL, 15.1 mmol, 1.5 equiv), potassium carbonate (2.79 g, 18.2 mmol, 2.0 equiv), triphenylphosphine (529 mg, 2.02 mmol, 0.2 equiv) and palladium acetate (227 mg, 1.01 mmol, 0.1 equiv). The solution was stirred to reflux for 24 h. Purification by column chromatography using 50% ethyl acetate in hexanes elution gave 43% of the yellow solid.

reactant | 6-chloroimidazo[1,2-b]pyridazine | 10.1 mmol, 1.55 g | ClC=1C=CC=2N(N1)C=CN2 | C6H4ClN3
reactant | potassium carbonate | 18.2 mmol, 2.79 g, 2.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 2.02 mmol, 529 mg, 0.2 equiv | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 10.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 1.01 mmol, 227 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-chloro-3-(naphthalen-1-yl)imidazo[1,2-b]pyridazine | 43% | ClC=1C=CC=2N(N1)C(=CN2)C2=CC=CC1=CC=CC=C21 | C16H10ClN3
